US05455252
6-(cyclopentylmethyl)-8-bromoquinoline and 3-chloro-4-fluorobenzene boronic acid can be combined to form 6-(cyclopentylmethyl)-8-(3-chloro-4-fluorophenyl)quinoline,

reactant | 6-(cyclopentylmethyl)-8-bromoquinoline | C1(CCCC1)CC=1C=C2C=CC=NC2=C(C1)Br | C15H16BrN
reactant | 3-chloro-4-fluorobenzene boronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 6-(cyclopentylmethyl)-8-(3-chloro-4-fluorophenyl)quinoline | C1(CCCC1)CC=1C=C2C=CC=NC2=C(C1)C1=CC(=C(C=C1)F)Cl | C21H19ClFN
